2116-06-19 07:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2116-6-18**] 04:39 PM
 DIALYSIS CATHETER - START [**2116-6-18**] 04:40 PM
 NASAL SWAB - At [**2116-6-18**] 06:45 PM
 BLOOD CULTURED - At [**2116-6-19**] 03:30 AM
   BC x 1 from LEFT FEM TLC
   > Removed mid line on the left upper extremity
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2116-6-18**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-18**] 10:10 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2116-6-19**] 01:00 AM
   Dextrose 50% - [**2116-6-19**] 01:00 AM
   Naloxone (Narcan) - [**2116-6-19**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-19**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 86 (78 - 105) bpm
   BP: 80/41(49) {63/26(31) - 154/129(134)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Doppler systolic BP at the bed side 160 mmhg
   CVP: 20 (20 - 20)mmHg
   Mixed Venous O2% Sat: 91 - 91
             Total In:
                                                                  1,735 mL
                                                                    377 mL
   PO:
             TF:
   IVF:
                                                                    685 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,595 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.17/90.[**Numeric Identifier 128**]/335/27/1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Cushingoid
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Absent), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, Right TMA. Left upper extremity
   swollen
   Diffuse eccyhmosis.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   172 K/uL
   120 mg/dL
   5.0 mg/dL
   27 mEq/L
   5.0 mEq/L
   31 mg/dL
   99 mEq/L
   137 mEq/L
   25.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2116-6-18**]  05:22 PM
                             [**2116-6-19**]  03:27 AM
   WBC
   7.2
   Hct
   25.9
   Plt
   172
   Cr
   5.0
   TCO2
   35
   Glucose
   120
   Other labs: Lactic Acid:0.7 mmol/L
   [1][**2116-6-19**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2116-6-18**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [3][**2116-6-18**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [4][**2116-6-18**]
   URINE
   URINE CULTURE-PENDING
   EMERGENCY [**Hospital1 **]
   [5][**2116-6-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [6][**2116-6-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   CXR [**6-19**]: HD cath in right atrium. Good lung vols, no obv infiltrate.
   Venous congestion.
   Assessment and Plan
   66 yo M with obesity hypoventilation, ? COPD, afib, ESRD on HD, PVD
   with recent TMA ulcer, presents with confusion in the setting of
   hypoglycemia and hypotension with recent admission concering for
   infected HD catheter (early [**2116-6-8**]) which was changed over a wire
   (growing out VRE) then new line sited. Picture complicated by med
   effects from narcotics and end stage renal disease with a missed HD on
   [**6-18**].  Now with concern for new source of sepsis (awaiting clx data)
   > Hypotension /  Leukocytosis:  recent VRE HD line sepsis still on
   treatment with  Daptomycin. Will need to check peripheral and HD line
   cultures as well as his mid line (and remove the lateral). His TMA is
   also a potneital souce although was OK on last admit. No obvious path
   on CT abd/pel and CXR is unchanged. Given hx would favor broad coverage
   (Pip-tazo and Daptomycin). No linezolid secondary to chronic low counts
   Also possible steroid deficiency with this new septic source.
   - stop stress dose steroids (systolic BP is OK on Doppler), go back to
   5 mg prednisone
   - Daptomycin and Pip Tazo penign clx data
   - F/u clx as above
    > Hypercarbia: hx of COPD,  hypercarbic in setting of sepsis and
   increased metabolic production of CO2. Target SaO2 90-93%.
   - follow ABG. Good response to naloxone
   - BiPAP if needed (hypercarbi and not responding to narcan)
    > ESRD:  Clx off HD line and T, Th, Sat HD
   > Altered mental status:   likely secondary to hypoxia initially and to
   hypoglycemia for his second episode of altered mental status, in
   addition to hypercarbia and med effect (narcotics.    Also will benefit
   from HD today as he missed his usual dose. .
   - follow ABG
   - support for infection as above
   - Cont naloxone
   - Haldo for agitation.
   > Atrial fibrillation: Digoxin not indicated (although seemes to work
   given his normal TTE), Will hold metoprolol in setting of hypotension
   > hypoglycemia: differential diagnosis includes sepsis, hypothryoidism
   or adrenal insufficiency or insulinoma versus medication error /
   surreptitious insulin use.
   > Left upper extremity swelling: will f/u read of the US
   > PVD s/p TMA debridement: has wound vac.  Continue, possible source of
   infection.  s/p surgery on [**5-11**]. Has known peripheral vascular disease.
   Tissue culture without growth on culture. Was seen on [**5-22**] by Dr.
   [**Last Name (STitle) 7328**] with good granulation tissue
   - Cont VAC dressing
   - Wound care consult
   - Cont [**Last Name (LF) **], [**First Name3 (LF) 369**]
   - Pain control cautiously with low dose morphine -> hold for now
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: Advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-18**] 04:39 PM
   Dialysis Catheter - [**2116-6-18**] 04:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI, no arterial line
   Disposition :ICU
   Total time spent: 45 minutes
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_33%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_34%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_35%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_36%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_37%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_38%22,640,400,50,50,1);

2116-06-21 10:13:00 Physician Attending Progress Note
Chief Complaint: ams, hypoglycemia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: 65yo M with esrd s/p  failed transplant recent ICU stay for HD
   line sepsis admitted with AMS, hypoglycemia and leukocytosis.
   24 Hour Events:
   Tylenol and lidocaine for pain
   Foley D/c
   Antibiotics finished for line sepsis
   Still hypoglycemic so D10W increased
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Daptomycin - [**2116-6-18**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-20**] 08:56 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2116-6-20**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2116-6-21**] 08:00 AM
   Other medications: nephrocaps, senna, colace, B12, ASA 325, digoxin
   .125mg, simvastatin, prednisone 5mg qhs, PPI, plavix 75mg, atrovent,
   albuterol, lopressor 12.5mg [**Hospital1 **], lidocaine patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-21**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 82 (75 - 94) bpm
   BP: 97/54(90) {44/12(18) - 150/102(107)} mmHg
   RR: 28 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,061 mL
                                                                    678 mL
   PO:
             TF:
   IVF:
                                                                    936 mL
                                                                    678 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,051 mL
                                                                    678 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.39/54/65/30/5
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Sleeping, arousable only with effort.  Oreinted to place
hospital.
  During sleep obvious OSA.
   Chest: Rhonchi.
   Cardiac: RRR, S1S2
   Abdomen: Soft, NT
   EXT: Cool.
   Labs / Radiology
   7.7 g/dL
   126 K/uL
   78 mg/dL
   4.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   25.2 %
   4.9 K/uL
        [image002.jpg]
                             [**2116-6-18**]  05:22 PM
                             [**2116-6-19**]  03:27 AM
                             [**2116-6-20**]  03:44 AM
                             [**2116-6-20**]  11:57 AM
                             [**2116-6-21**]  03:44 AM
   WBC
   7.2
   4.1
   4.9
   Hct
   25.9
   24.6
   25.2
   Plt
   172
   152
   126
   Cr
   5.0
   3.1
   4.3
   TCO2
   35
   34
   Glucose
   120
   74
   78
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.0 mg/dL
   Blood Cx NGTD.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): Persistently sedated without
   any narcotics or other sedatives..  Infection work up pending with no
   clear etiology identified.  Co2 has not been very elevated.
   - Trial of narcan.  Check ammonia, dig level.  Check head imaging with
   I- head CT.  Consider trial of higher dose steroid (eg hydrocortisone
   50mg x1).  If all negative consider MRI.
 HYPOGLYCEMIA: Has had extensive w/u for this in past.  Now confounded
   by his ams and inability to safely take Pos.  Persists, but improved
   with D10W.  As HCP is not agreeable to NGT placement, will continue
   with D10 gtt for now.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): on HD
   last Friday.  Per renal check CXR and VBG.  Family wishes to hold on
   further HD understanding the risk and outcome of resultant electrolyte
   abnl.
PVD:
   HD line inf
completing antibx course.
   ICU Care
   Nutrition: NPO [**2-10**] AMS
   D10
   Glycemic Control:  No insulin (hypogluycemia)
   Lines:
   Multi Lumen - [**2116-6-18**] 04:39 PM
   Dialysis Catheter - [**2116-6-18**] 04:40 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI (but held since not taking PO).  Switch to IV.
   VAP: N/A
   Comments: Switch meds to IV.  Make NPO.
   Communication:  Comments: With wife
   [**Name (NI) 66**] status: DNR/I, minimal procedures.Pts wife is heading toward cmo
   status.  Palliative care isx following with plan for meeting tomorrow
   to discuss options and further clarify  goals of care discussion.  At
   this timne family wishes tio hold on furtehr HD.  Will continue current
   level of care with D10 gtt for hypoglycemia.  No invasive procedures,
   no NGT placement.
   Disposition : will remain in ICU given D10 requirements
   Total time spent: 25 mins

2116-06-22 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Alternating MS with limited response to narcan
   > Negative head CT
   > No response to high dose steroids.
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-20**] 08:56 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2116-6-21**] 11:15 AM
   Heparin Sodium (Prophylaxis) - [**2116-6-22**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-22**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 74 (55 - 95) bpm
   BP: 123/63(78) {67/19(41) - 140/103(115)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,541 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,541 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,541 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), L>R upper ext swelling
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, right TMA with moderate purulence
   Musculoskeletal: Unable to stand
   Skin:  Warm, ecchymosis diffuse
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   117 K/uL
   178 mg/dL
   5.5 mg/dL
   28 mEq/L
   4.9 mEq/L
   19 mg/dL
   98 mEq/L
   134 mEq/L
   24.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2116-6-18**]  05:22 PM
                             [**2116-6-19**]  03:27 AM
                             [**2116-6-20**]  03:44 AM
                             [**2116-6-20**]  11:57 AM
                             [**2116-6-21**]  03:44 AM
                             [**2116-6-22**]  03:43 AM
   WBC
   7.2
   4.1
   4.9
   5.3
   Hct
   25.9
   24.6
   25.2
   24.5
   Plt
   172
   152
   126
   117
   Cr
   5.0
   3.1
   4.3
   5.5
   TCO2
   35
   34
   Glucose
   120
   74
   78
   178
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): Persistently sedated without
   any narcotics or other sedatives..  Infection work up pending with no
   clear etiology identified.  Co2 has not been very elevated.  Normal
   head CT. Wife prefers changing management to comfort
   -
 HYPOGLYCEMIA: Has had extensive w/u for this in past.  Now confounded
   by his ams and inability to safely take Pos.  Persists, but improved
   with D10W.  As HCP is not agreeable to NGT placement, will continue
   with D10 gtt for now.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): on HD
   last Friday.  Per renal check CXR and VBG.  Family wishes to hold on
   further HD understanding the risk and outcome of resultant electrolyte
   abnl.
    Family meeting: plan to change focus of care to comfort
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2116-6-18**] 04:39 PM
   Dialysis Catheter - [**2116-6-18**] 04:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, comfort measures only
   Disposition :ICU
   Total time spent: 35 minutes

2116-06-23 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting, patient made CMO.
   Continued on D10 awaiting grandson's arrival
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-20**] 08:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2116-6-23**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-23**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 66 (60 - 89) bpm
   BP: 88/37(50) {60/27(38) - 138/58(90)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    442 mL
                                                                     66 mL
   PO:
             TF:
   IVF:
                                                                    442 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    442 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   117 K/uL
   7.4 g/dL
   178 mg/dL
   5.5 mg/dL
   28 mEq/L
   4.9 mEq/L
   19 mg/dL
   98 mEq/L
   134 mEq/L
   24.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2116-6-18**]  05:22 PM
                             [**2116-6-19**]  03:27 AM
                             [**2116-6-20**]  03:44 AM
                             [**2116-6-20**]  11:57 AM
                             [**2116-6-21**]  03:44 AM
                             [**2116-6-22**]  03:43 AM
   WBC
   7.2
   4.1
   4.9
   5.3
   Hct
   25.9
   24.6
   25.2
   24.5
   Plt
   172
   152
   126
   117
   Cr
   5.0
   3.1
   4.3
   5.5
   TCO2
   35
   34
   Glucose
   120
   74
   78
   178
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOGLYCEMIA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-18**] 04:39 PM
   Dialysis Catheter - [**2116-6-18**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2116-06-23 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Neupogen (Injection) (Filgrastim)
   "violent";
   Neurontin (Oral) (Gabapentin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2116-6-20**] 08:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2116-6-23**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-6-23**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 66 (60 - 84) bpm
   BP: 88/37(50) {60/27(38) - 138/58(90)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    442 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    442 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    442 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Oriented (to): x1, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   117 K/uL
   178 mg/dL
   5.5 mg/dL
   28 mEq/L
   4.9 mEq/L
   19 mg/dL
   98 mEq/L
   134 mEq/L
   24.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2116-6-18**]  05:22 PM
                             [**2116-6-19**]  03:27 AM
                             [**2116-6-20**]  03:44 AM
                             [**2116-6-20**]  11:57 AM
                             [**2116-6-21**]  03:44 AM
                             [**2116-6-22**]  03:43 AM
   WBC
   7.2
   4.1
   4.9
   5.3
   Hct
   25.9
   24.6
   25.2
   24.5
   Plt
   172
   152
   126
   117
   Cr
   5.0
   3.1
   4.3
   5.5
   TCO2
   35
   34
   Glucose
   120
   74
   78
   178
   Other labs: Lactic Acid:0.8 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): Persistently sedated without
   any narcotics or other sedatives..  Infection work up pending with no
   clear etiology identified.  Co2 has not been very elevated.  Normal
   head CT. Wife prefers changing management to comfort
 HYPOGLYCEMIA: Has had extensive w/u for this in past.  Now confounded
   by his ams and inability to safely take Pos.  Persists, but improved
   with D10W.  As HCP is not agreeable to NGT placement, will continue
   with D10 gtt for now.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): no further
   HD
    Family meeting: plan to focus on comfort
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-6-18**] 04:39 PM
   Dialysis Catheter - [**2116-6-18**] 04:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill